US07696223B2
a) 2-tert-butyl-7-hydroxy-4-styryl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester
Under a nitrogen atmosphere 4-bromo-2-tert-butyl-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (300 mg, 0.835 mmol), styreneboronic acid (185 mg, 1.25 mmol), cesium carbonate (675 mg, 2.08 mmol), and tetrakis(triphenylphosphine)palladium(0)(143 mg, 0.12 mmol) were suspended in 4 mL of anhydrous 1,4 dioxane. The reaction was heated at reflux temperature for 18 h, then cooled to room temperature and diluted with ethyl acetate. The organic mixture was successively washed with water, saturated sodium bicarbonate, and brine solutions. The organic fractions were dried over anhydrous sodium sulfate and concentrated to a crude solid residue, which was then purified by column chromatography, eluting the desired product from silica gel with a gradient of 10-90% ethyl acetate in hexanes: 180 mg of a yellow oil. MS: (+) m/z 382.9 (M+1).

reactant | 4-bromo-2-tert-butyl-7-hydroxy-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.835 mmol, 300 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)Br)N=C(S2)C(C)(C)C)O | C13H15BrN2O3S
reactant | styreneboronic acid | 1.25 mmol, 185 mg | C(=CC1=CC=CC=C1)B(O)O | C8H9BO2
reactant | cesium carbonate | 2.08 mmol, 675 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4 dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.12 mmol, 143 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-tert-butyl-7-hydroxy-4-styryl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C2=C(C(=N1)C=CC1=CC=CC=C1)N=C(S2)C(C)(C)C)O | C21H22N2O3S
